US08895572B2
Step E: tert-Butyl[(3S,5S,6R)-2-hydrazinylidene-6-methyl-5-phenylpiperidin-3-yl]carbamate
To a solution of tert-Butyl [(3S,5S,6R)-6-methyl-5-phenyl-2-thioxopiperidin-3-yl]carbamate (100 mg, 0.31 mmol) in methanol (3.1 mL) was added hydrazine hydrate (55%, 833 μL, 9.36 mmol). The mixture was stirred 75 min, and then concentrated. Saturated aqueous sodium bicarbonate was added, and the mixture was extracted with ethyl acetate (×3). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated to give the crude title compound. MS 319.4 (M+1).

reactant | tert-Butyl [(3S,5S,6R)-6-methyl-5-phenyl-2-thioxopiperidin-3-yl]carbamate | 0.31 mmol, 100 mg | C[C@@H]1[C@@H](C[C@@H](C(N1)=S)NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C17H24N2O2S
reactant | hydrazine hydrate | 9.36 mmol, 833 μL | O.NN
solvent | methanol | 3.1 mL | CO | CH4O
product | tert-Butyl[(3S,5S,6R)-2-hydrazinylidene-6-methyl-5-phenylpiperidin-3-yl]carbamate | C(C)(C)(C)OC(N[C@@H]1C(N[C@@H]([C@@H](C1)C1=CC=CC=C1)C)=NN)=O | C17H26N4O2
